US05364614
(a) 10-(2,3,4-Trihydroxybutyl)-1,4,7-triscarboxymethyl-1,4,7,10-tetraazacyclododecane
10.0 g (28.87 mmol) of 1,4,7-triscarboxymethyl-1,4,7,10-tetraazacyclododecane (DO3A) is dissolved in 40 ml of water, and the pH is set at 13 with 5N sodium hydroxide solution. A solution of 6.24 g (43.30 mmol) of 2-(2,2-dimethyl-1,3-dioxolan-4-yl)ethylene oxide (DE 3,150,917) in 10 ml of dioxane is added thereto, and the mixture is stirred for 24 hours at room temperature. The mixture is diluted with 60 ml of water and extracted three times with 50 ml of ether. The aqueous phase is brought to pH 2 with 10% strength hydrochloric acid and evaporated. The residue is dissolved in a small amount of water and passed to a cation exchange column (IR 120). After flushing with water, the ligand is eluted with 0.5-normal aqueous ammonia solution. The fractions are evaporated, the ammonium salt is taken up in a small amount of water and passed over an anion exchange column (IRA 67). The mixture is first washed with water and then eluted with 0.5-normal aqueous formic acid. The product is evaporated under vacuum, the residue is dissolved in a small amount of hot methanol, and acetone is added, thus crystallizing the title compound.

reactant | 1,4,7-triscarboxymethyl-1,4,7,10-tetraazacyclododecane | 28.87 mmol, 10.0 g | C(=O)(O)CN1CCN(CCN(CCNCC1)CC(=O)O)CC(=O)O | C14H26N4O6
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | 2-(2,2-dimethyl-1,3-dioxolan-4-yl)ethylene oxide | 43.30 mmol, 6.24 g | CC1(OCC(O1)C1CO1)C | C7H12O3
solvent | water | 40 ml | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 60 ml | O | H2O
product | 10-(2,3,4-Trihydroxybutyl)-1,4,7-triscarboxymethyl-1,4,7,10-tetraazacyclododecane | OC(CN1CCN(CCN(CCN(CC1)CC(=O)O)CC(=O)O)CC(=O)O)C(CO)O | C18H34N4O9
